US06878715B1
Potassium cyanide (280 mg, 4.30 mmol) was added to a solution of (5)-1-(5-methanesulfonyloxyhexyl)-3,7-dimethylxanthine (prepared as described for CT11558) (770 mg, 2.15 mmol) in dimethylsulfoxide (10 ml). After heating at 50° C. for 24 hours, the mixture was poured into water (50 ml) and extracted with ethyl acetate (3x 50 ml). The combined extracts were washed with water (40 ml), saturated aqueous sodium chloride solution (40 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate to provide (R)-1-(5-cyanohexyl)-3,7-dimethylxanthine (CT16575) (280 mg).

reactant | Potassium cyanide | 4.30 mmol, 280 mg | [C-]#N.[K+]
reactant | (5)-1-(5-methanesulfonyloxyhexyl)-3,7-dimethylxanthine | 2.15 mmol, 770 mg | CS(=O)(=O)O[C@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C14H22N4O5S
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-cyanohexyl)-3,7-dimethylxanthine | 280 mg | C(#N)[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C14H19N5O2
